US08377970B2
N-[6-(3,5-dicyclopropyl-1H-pyrazol-1-yl)pyridin-3-yl]-4-methylpyrimidine-5-carboxamide hydrochloride
Following the general procedure-1, N-[6-(3,5-dicyclopropyl-1H-pyrazol-1-yl)pyridin-3-yl]-4-methylpyrimidine-5-carboxamide (230 mg) from intermediate 30 (200 mg, 0.83 mmol) and intermediate 53 (350 mg, 2.49 mmol) as a pale yellow solid and dissolved in THF. Saturated HCl in diethyl ether was added to this solution at 0° C. and stirred for 15 min. Solid that separated out was filtered and dried to give the title compound (120 mg) as a yellow solid. M.P.: 192-197° C. 1H-NMR (δ ppm, DMSO-d6, 400 MHz): 10.92 (s, 1H), 9.16 (s, 1H), 8.94 (s, 1H), 8.75 (d, J 2.5, 1H), 8.27 (dd, J 2.6, 8.8, 1H), 7.76 (d, J 8.8, 1H), 5.82 (s, 1H), 2.70-2.62 (m, 1H), 2.61 (s, 3H), 1.92-1.84 (m, 1H), 0.95-0.85 (m, 4H), 0.70-0.58 (m, 4H). MS (m/z): 360.97 [M+H—HCl]+.

reactant | N-[6-(3,5-dicyclopropyl-1H-pyrazol-1-yl)pyridin-3-yl]-4-methylpyrimidine-5-carboxamide | 230 mg | C1(CC1)C1=NN(C(=C1)C1CC1)C1=CC=C(C=N1)NC(=O)C=1C(=NC=NC1)C | C20H20N6O
reactant | HCl | Cl | ClH
solvent | THF | C1CCOC1 | C4H8O
solvent | diethyl ether | C(C)OCC | C4H10O
product | N-[6-(3,5-dicyclopropyl-1H-pyrazol-1-yl)pyridin-3-yl]-4-methylpyrimidine-5-carboxamide hydrochloride | 120 mg | Cl.C1(CC1)C1=NN(C(=C1)C1CC1)C1=CC=C(C=N1)NC(=O)C=1C(=NC=NC1)C | InChI=1S/C20H20N6O.ClH/c1-12-16(10-21-11-23-12)20(27)24-15-6-7-19(22-9-15)26-18(14-4-5-14)8-17(25-26)13-2-3-13;/h6-11,13-14H,2-5H2,1H3,(H,24,27);1H
